US04003914
3.65 g of 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,3-dioxide, 7.8 g of N-methyl-homoveratrylamine and 20 ml of dimethyl sulphoxide are heated at 50° C under argon for 16 hours. The solution is then poured into 200 ml of water and made strongly alkaline. The excess N-methyl-homoveratrylamine is extracted with ether. The alkaline solution is then extracted with methylene chloride. The methylene chloride extracts are dried over magnesium sulphate. After evaporation of the solvent, the residue is taken up in acetone and treated with hydrogen chloride in dioxane (up to pH 2). The crystalline residue is recrystallized from acetone/acetonitrile and there is obtained N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine-1,3-dioxide hydrochloride of melting point 148°-149° C (diastereomeric mixture). The 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,3-dioxide used as the starting material can be prepared as follows:

reactant | 2-(3-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane-1,3-dioxide | 3.65 g | ClCCCC1(S(CCCS1=O)=O)C1=CC(=C(C=C1)OC)OC | C15H21ClO4S2
reactant | N-methyl-homoveratrylamine | 7.8 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine-1,3-dioxide hydrochloride | Cl.COC=1C=C(CCN(CCCC2(S(CCCS2=O)=O)C2=CC(=C(C=C2)OC)OC)C)C=CC1OC | InChI=1S/C26H37NO6S2.ClH/c1-27(15-12-20-8-10-22(30-2)24(18-20)32-4)14-6-13-26(34(28)16-7-17-35(26)29)21-9-11-23(31-3)25(19-21)33-5;/h8-11,18-19H,6-7,12-17H2,1-5H3;1H
